US05134142
A mixture of ethyl 4-[4-(formylamino)phenyl]-2,4-dioxobutanoate (6 g) and 4-fluorophenylhydrazine hydrochloride (4.1 g) in acetic acid (30 ml) was stirred at 100° C. for 2 hours. The mixture was concentrated, and the residue was treated with 10% hydrochloric acid (10 ml) and methanol (40 ml) at 60° C. for 2 hours. The solvent was evaporated, and the residue was dissolved in water. The obtained solution was neutralized and extracted with ethyl acetate. The extract was washed with water, dried, and concentrated in vacuo. The residue was washed with ethanol to give crystals of ethyl 5-(4-aminophenyl)-1-(4-fluorophenyl)pyrazole-3-carboxylate (3.4 g).

reactant | ethyl 4-[4-(formylamino)phenyl]-2,4-dioxobutanoate | 6 g | C(=O)NC1=CC=C(C=C1)C(CC(C(=O)OCC)=O)=O | C13H13NO5
reactant | 4-fluorophenylhydrazine hydrochloride | 4.1 g | Cl.FC1=CC=C(C=C1)NN
solvent | acetic acid | 30 ml | C(C)(=O)O | C2H4O2
product | ethyl 5-(4-aminophenyl)-1-(4-fluorophenyl)pyrazole-3-carboxylate | 3.4 g | NC1=CC=C(C=C1)C1=CC(=NN1C1=CC=C(C=C1)F)C(=O)OCC | C18H16FN3O2
